US05091384
Preparation of 1-cyclopropyl-7-[3,7-diazabicyclo[3.3.0]oct-1(5)-en-3-yl]-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (KR-10758)
0.6 g of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1,2 g of 3,7-diazabicyclo[3.3.0]oct-1(5)-ene dihydrobromide and 1.3 ml of 1,8diazabicyclo[5.4.0]undec-7-ene (DBU) were suspended in 32 ml of acetonitrile and the suspension was refluxed for 10 hours. The reaction mixture was kept overnight at room temperature. The produced precipitate was filtered and washed with ethanol. 0.58 g of the titled compound was obtained (yield 74%).

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.6 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | 3,7-diazabicyclo[3.3.0]oct-1(5)-ene dihydrobromide | 1,2 g | Br.Br.C1=2CNCC2CNC1
reactant | 1,8diazabicyclo[5.4.0]undec-7-ene | 1.3 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 32 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-7-[3,7-diazabicyclo[3.3.0]oct-1(5)-en-3-yl]-5,6,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.58 g, yield 74% | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC=2CNCC2C1)F)F)=O)C(=O)O | C19H16F3N3O3
